data/mechanism_extracts/OrgLett/10.1021_acs.orglett.4c04041_sup_1.json
{"doi": "10.1021_acs.orglett.4c04041_sup_1", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical 1,2-dichlorocyclization/dichlorination of enyne substrates using catalytic aryl iodide (p-Tol-I) as a redox mediator generating an aryl-λ3-iodane (ArICl2) that delivers chlorine radicals/atoms under undivided-cell electrolysis with Et3N·HCl as Cl source.", "mechanism_family": ["mediator_anodic", "radical_polar_crossover", "electrocatalysis_outer_sphere"], "electrochemical_role": "Anodic oxidation of aryl iodide (p-Tol-I) to a hypervalent dichloro(aryl)-λ3-iodane (ArICl2) using chloride from Et3N·HCl; this hypervalent iodine mediator then transfers Cl to the organic substrate. Cathode reduces protons/Et3NH+ to H2.", "key_intermediates": [{"name": "dichloro(p-tolyl)-λ3-iodane (ArICl2)", "smiles": "Cc1ccc(I(Cl)Cl)cc1", "role": "reactive"}, {"name": "vinyl/alkenyl chloride radical adduct from Cl• addition to alkyne", "smiles": null, "role": "transient"}, {"name": "carbon-centered radical after 5-exo-trig cyclization onto pendant alkene", "smiles": null, "role": "transient"}, {"name": "p-tolyl iodide (catalyst resting state)", "smiles": "Cc1ccc(I)cc1", "role": "resting_state"}], "electron_flow": "Anode oxidizes p-Tol-I in the presence of Cl- (from Et3N·HCl) to generate ArICl2; this λ3-iodane homolytically delivers a Cl• to the alkyne of the enyne, producing a vinyl radical that cyclizes 5-exo onto the alkene; the resulting C-radical abstracts/captures a second Cl from ArICl2, regenerating p-Tol-I.", "rate_determining_step": "Chlorine atom transfer from ArICl2 to the alkyne (Cl• addition generating vinyl radical)", "probe_reagents": [{"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Reaction of 1a fully suppressed (2a N.R.); HRMS detected 1-chloro-2,2-diphenylethylene adduct (calc 215.0622, found 215.0626), trapping a Cl• / vinyl-Cl species."}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction suppressed (N.R.) under standard electrolysis; with stoichiometric ArICl2 + BHT product still forms (45%), consistent with mediator-derived radical pathway."}, {"name": "Stoichiometric 4-Me-C6H4ICl2 (preformed ArICl2)", "smiles": "Cc1ccc(I(Cl)Cl)cc1", "purpose": "intermediate_trap", "observation": "Without current but with 2 equiv ArICl2 the reaction proceeds in 52% yield (entry 5), supporting ArICl2 as the active chlorinating intermediate; isolated in 20% yield, 49% ee in a separate stoichiometric run."}, {"name": "Selectfluor / CsCl (alternative oxidant)", "smiles": null, "purpose": "redox_probe", "observation": "Without current, replacing Et3N·HCl with Selectfluor + CsCl gives 23% yield, indicating chemical oxidation of ArI to ArICl2 reproduces reactivity."}, {"name": "No p-Tol-I control", "smiles": null, "purpose": "other", "observation": "Reaction still proceeds in 21% yield without mediator, indicating a minor direct/background pathway, but mediator strongly accelerates the reaction."}, {"name": "No Et3N·HCl control", "smiles": null, "purpose": "other", "observation": "No detectable product (N.D.), confirming chloride is the Cl source."}, {"name": "No current control", "smiles": null, "purpose": "other", "observation": "No reaction without electrolysis, confirming requirement of anodic oxidation to generate ArICl2."}], "evidence_types_used": ["intermediate_trap_other", "intermediate_trap_BHT", "stoichiometric_intermediate", "isolation_of_intermediate", "cyclic_voltammetry", "on/off_light_or_current"], "evidence_strength": "strong", "notes": "In-situ formation of ArICl2 was directly observed by 1H NMR of the crude electrolysis mixture (p-Tol-I + Et3N·HCl in DCM/HFIP, 10 mA, 2 h). Control experiments collectively support a mediator-based Cl-atom-transfer (radical) mechanism rather than direct anodic oxidation of substrate: (i) radical traps (DPE, BHT) shut down reaction and trap a Cl-containing radical; (ii) preformed ArICl2 substitutes for current; (iii) alternative chemical oxidants (Selectfluor/CsCl) recover reactivity. An alternative ionic pathway via ArICl2-mediated chloriranium ion cannot be fully excluded but is disfavored by radical-trapping outcomes and modest ee (49%)."}
